US07371777B2
Methyl 2-{(acetyloxy)[2-(benzyloxy)-4-pyridyl]methyl}-tetrahydro-2-furancarboxylate
To a solution of 4.23 g of methyl 2-[[2-(benzyloxy)-4-pyridyl](hydroxy)methyl]tetrahydro-2-furancarboxylate in 20 ml of dichloromethane were added 5 ml of acetic anhydride, 5 ml of pyridine and 0.43 g of 4-dimethylaminopyridine, and the mixture was stirred at room temperature for 15 hours. 300 ml of ethyl acetate and 100 ml of hydrochloric acid (2N) were added thereto. The organic layer was sequentially washed with 100 ml of water, 100 ml of saturated aqueous sodium hydrogencarbonate and 100 ml of brine, dried over magnesium sulfate and evaporated, to give 4.52 g of the title compound as a colorless oil.

reactant | methyl 2-[[2-(benzyloxy)-4-pyridyl](hydroxy)methyl]tetrahydro-2-furancarboxylate | 4.23 g | C(C1=CC=CC=C1)OC1=NC=CC(=C1)C(C1(OCCC1)C(=O)OC)O | C19H21NO5
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.43 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 2-{(acetyloxy)[2-(benzyloxy)-4-pyridyl]methyl}-tetrahydro-2-furancarboxylate | 4.52 g | C(C)(=O)OC(C1(OCCC1)C(=O)OC)C1=CC(=NC=C1)OCC1=CC=CC=C1 | C21H23NO6
